US07910585B2
To a solution of 4-(4-Isopropyl-piperazin-1-yl)-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one (4.56 g, 14 mmol) in ethanol (130 mL), iron powder (4.0 g, 70 mmol) and 1N hydrochloric acid (28 mL) are the mixture is added stirred at 60° C. for 3 hours. The mixture is cooled and then, 1N sodium hydroxide (28 mL) is added. After removing insoluble materials by filtration, the mixture is evaporated. The resulting pale yellow solids are collected by filtration and dried in vacuo at 50° C. to afford 7-Amino-4-(4-isopropyl-piperazin-1-yl)-2-methyl-2,3-dihydro-isoindol-1-one (3.43 g) as brown solids in 83% yield. Rf=0.18 (Hexane/AcOEt=111). 1H-NMR (400 MHz, CDCl3, δ, ppm): 1.09 (s, 3H), 1.10 (s, 3H), 2.65 (t, 4H), 2.75-2.69 (m, 1H), 2.96 (t, 4H), 3.13 (s, 3H), 4.28 (s, 2H), 4.99 (s, 2H), 6.56 (d, 1H), 6.99 (d, 1H).

reactant | 4-(4-Isopropyl-piperazin-1-yl)-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one | 14 mmol, 4.56 g | C(C)(C)N1CCN(CC1)C1=C2CN(C(C2=C(C=C1)[N+](=O)[O-])=O)C | C16H22N4O3
reactant | hydrochloric acid | 1N, 28 mL | Cl | ClH
reactant | sodium hydroxide | 1N, 28 mL | [OH-].[Na+]
solvent | ethanol | 130 mL | C(C)O | C2H6O
catalyst | iron | 70 mmol, 4.0 g | [Fe] | Fe
product | 7-Amino-4-(4-isopropyl-piperazin-1-yl)-2-methyl-2,3-dihydro-isoindol-1-one | 3.43 g, 83% yield | NC=1C=CC(=C2CN(C(C12)=O)C)N1CCN(CC1)C(C)C | C16H24N4O
